US08877760B2
5-((1R,2S)-2-aminocyclohexylamino)-3-(isothiazolo[3,4-b]pyridin-3-ylamino)pyrazine-2-carboxamide
To a solution of 5-((1R,2S)-2-aminocyclohexylamino)-3-(isothiazolo[3,4-b]pyridin-3-ylamino)pyrazine-2-carbonitrile (36 mg) in EtOH (1 mL) and DMSO (0.5 mL), aq. 1N NaOH (1 mL) and aq. H2O2 (30%, 1 mL) were added. The mixture was stirred at room temperature for 20 h. After being neutralized with HOAc (0.3 mL), the mixture was purified by HPLC to give the titled compound (7 mg). MS found for C17H20N8OS as (M+H)+ MS 385.3. UV: λ=UV 207.4, 245.8, 298.6, 343.2 nm. 1H NMR: (CD3OD) δ 8.50 (dd, 1H), 8.22 (dd, 1H), 7.73 (s, 1H), 7.05 (dd, 1H), 4.70-4.62 (m, 1H), 4.12-4.05 (m, 1H), 2.14-1.60 (m, 8H).

reactant | 5-((1R,2S)-2-aminocyclohexylamino)-3-(isothiazolo[3,4-b]pyridin-3-ylamino)pyrazine-2-carbonitrile | 36 mg | N[C@@H]1[C@@H](CCCC1)NC=1N=C(C(=NC1)C#N)NC=1SN=C2N=CC=CC21 | C17H18N8S
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | H2O2 | 1 mL | OO | H2O2
reactant | HOAc | 0.3 mL | CC(=O)O | C2H4O2
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 5-((1R,2S)-2-aminocyclohexylamino)-3-(isothiazolo[3,4-b]pyridin-3-ylamino)pyrazine-2-carboxamide | 7 mg | N[C@@H]1[C@@H](CCCC1)NC=1N=C(C(=NC1)C(=O)N)NC=1SN=C2N=CC=CC21 | C17H20N8OS
